US07696347B2
(6A-1) N,N-dimethyl-2-[(tri-n-butylstannyl)methoxy]ethanamine
To a mixture of sodium hydride (60%, 278 mg, 7.0 mmol) and tetrahydrofuran (20 ml) was added 2-dimethylaminoethanol (0.70 ml, 7.0 mmol) at 0° C. (external temperature). Then, the reaction mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added dropwise a mixture of tributyl-iodomethyl-tin (2.0 g, 4.6 mmol) and tetrahydrofuran (5 ml)-N,N-dimethylformamide (20 ml) at 0° C. (external temperature). Then, the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, ethyl acetate was added, and the organic layer was separated. The organic layer was washed with water and an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography (heptane:ethyl acetate=19:1, NH silica gel) to obtain the title compound (1.7 g, 4.3 mmol, 93%).

reactant | sodium hydride | 7.0 mmol, 278 mg | [H-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 2-dimethylaminoethanol | 7.0 mmol, 0.70 ml | CN(CCO)C | C4H11NO
reactant | tributyl-iodomethyl-tin | 4.6 mmol, 2.0 g | C(CCC)[Sn](CI)(CCCC)CCCC
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N,N-dimethyl-2-[(tri-n-butylstannyl)methoxy]ethanamine | 4.3 mmol, 1.7 g, 93% | CN(CCOC[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C5H12NO.3C4H9.Sn/c1-6(2)4-5-7-3;3*1-3-4-2;/h3-5H2,1-2H3;3*1,3-4H2,2H3;
